### PR TITLE
feat(Automata, LTS, TM): Introduce LTS.SMTr and LTS.mapLabel, generalise TM tapes to arbitrary universes, fix EpsilonNA, and introduce their single-accept transformation

### PR DESCRIPTION
**Pull request by fmontesi**
This PR:
- Fixes a bug in the formulation of EpsilonNA by adopting a new saturated multistep transition LTS.SMTr for LTS, which correctly invokes tau-closure for empty strings.
- Introduces a `mapLabel` operation for LTS and its properties.
- Introduces a new transformation `toSingleAccept` for EpsilonNA.FinAcc, which transforms the automaton into an equivalent one that has a single accept state with no outgoing transitions.
- Generalises TM tapes/symbols to arbitrary universes.

### CODE REVIEW

File: Cslib/Foundations/Semantics/LTS/Basic.lean [hunk 1]
```diff
@@ -62,6 +62,13 @@ structure LTS (State : Type u) (Label : Type v) where
 
 namespace LTS
 
+/-- Extensional equality for LTS. -/
+theorem ext {lts₁ lts₂ : LTS State Label}
+    (h : ∀ s μ s', lts₁.Tr s μ s' ↔ lts₂.Tr s μ s') : lts₁ = lts₂ := by
+  rcases lts₁ with ⟨Tr₁⟩
+  rcases lts₂ with ⟨Tr₂⟩
+  grind only [mk.injEq]
```
Comment (ctchou) [inline Cslib/Foundations/Semantics/LTS/Basic.lean]: You don't need to prove this theorem yourself.  Adding the `@[ext]` attribute to the definition of `LTS` suffices.

File: Cslib/Foundations/Semantics/LTS/HasTau.lean [hunk 2]
```diff
@@ -122,20 +126,123 @@ theorem saturate_tr_saturate_sTr [hHasTau : HasTau Label] (lts : LTS State Label
...
 theorem mem_saturate_image_τ [HasTau Label] (lts : LTS State Label) :
   s ∈ lts.saturate.image s HasTau.τ := STr.refl
 
+/-- `setImage` on `HasTau.τ` preserves membership. -/
+@[scoped grind .]
+lemma mem_saturate_setImage_τ [HasTau Label] (lts : LTS State Label) (h : s ∈ S) :
+    s ∈ lts.saturate.setImage S HasTau.τ := by
+  simp only [setImage, Set.mem_iUnion, exists_prop]
+  exists s
+  grind
```
Comment (ctchou) [inline Cslib/Foundations/Semantics/LTS/HasTau.lean]: Given the theorem `subset_saturate_setImage_τ` below, do we really need this lemma?  They are practically identical.

File: Cslib/Foundations/Semantics/LTS/HasTau.lean [hunk 3]
```diff
@@ -122,20 +126,123 @@ theorem saturate_tr_saturate_sTr [hHasTau : HasTau Label] (lts : LTS State Label
...
+
 /-- The `τ`-closure of a set of states `S` is the set of states reachable by any state in `S`
 by performing only `τ`-transitions. -/
 def τClosure [HasTau Label] (lts : LTS State Label) (S : Set State) : Set State :=
   lts.saturate.setImage S HasTau.τ
 
+/-- `τClosure` preserves membership. -/
+@[scoped grind .]
+lemma τClosure_mem [HasTau Label] (lts : LTS State Label) (h : s ∈ S) :
+    s ∈ lts.τClosure S := by grind [= τClosure]
```
Comment (ctchou) [inline Cslib/Foundations/Semantics/LTS/HasTau.lean]: Ditto.

File: Cslib/Foundations/Semantics/LTS/HasTau.lean [hunk 4]
```diff
@@ -122,20 +126,123 @@ theorem saturate_tr_saturate_sTr [hHasTau : HasTau Label] (lts : LTS State Label
...
+    case stepL sb htr hmtr => exact SMTr.stepL (STr.single htr) (ih hmtr)
+
+@[scoped grind =]
+theorem sMTr_τSTr_iff [HasTau Label] {lts : LTS State Label} :
+    lts.τSTr s s' ↔ lts.SMTr s [] s' := by grind only [=_ sTr_τSTr_iff, SMTr]
+
+/-- A saturated multistep transition with a nonempty label list implies a multistep transition. -/
+@[scoped grind =]
+theorem saturate_mTr_sMTr_not_nil_iff [HasTau Label] {lts : LTS State Label}
+    (hμs : μs ≠ []) : lts.saturate.MTr s μs s' ↔ lts.SMTr s μs s' := by
```
Comment (ctchou) [inline Cslib/Foundations/Semantics/LTS/HasTau.lean:200]: Why not take this as the definition of `LTS.SMTr`?  I think the properties of `LTS.SMTr` proved above are all easy consequences of this alternative definition.

File: Cslib/Foundations/Semantics/LTS/Map.lean [hunk 5]
```diff
@@ -0,0 +1,41 @@
...
+Authors: Fabrizio Montesi
+-/
+
+module
+
+public import Cslib.Foundations.Semantics.LTS.Basic
+
+
+/-!
+# Map operation for LTS.
```
Comment (ctchou) [inline Cslib/Foundations/Semantics/LTS/Map.lean]: Unless you plan to add other kinds of map operations in the future, I think this file should be renamed to `MapLabel.lean` and this comment should be more specific.

File: Cslib/Computability/Automata/EpsilonNA/Basic.lean [hunk 6]
```diff
@@ -46,9 +46,8 @@ namespace FinAcc
 that trace from the start state. -/
 @[scoped grind =]
 instance : Acceptor (FinAcc State Symbol) Symbol where
-  Accepts (a : FinAcc State Symbol) (xs : List Symbol) :=
-    ∃ s ∈ a.εClosure a.start, ∃ s' ∈ a.accept,
-    a.saturate.MTr s (xs.map (some ·)) s'
+    Accepts (a : FinAcc State Symbol) (xs : List Symbol) :=
+  ∃ s ∈ a.start, ∃ s' ∈ a.accept, a.SMTr s (xs.map Option.some) s'
```
Comment (ctchou) [inline Cslib/Computability/Automata/EpsilonNA/Basic.lean]: I think the old indentation pattern is the correct one.

File: Cslib/Computability/Automata/EpsilonNA/ToNA.lean [hunk 7]
```diff
@@ -41,21 +22,39 @@ variable {State Symbol : Type*}
...
-  have : ∀ s s', ena.saturate.MTr s (xs.map some) s' = ena.saturate.noε.MTr s xs s' := by
-    simp [LTS.noε_saturate_mTr]
-  #adaptation_note
-  /-- A grind regression found moving to nightly-2026-03-31 (changes from lean#13166) -/
-  grind [Accepts]
-
-end Automata.εNA.FinAcc
-
-end Cslib
+  apply Iff.intro <;> intro h <;> rcases h with ⟨s, hs, s', hs', h⟩
```
Comment (ctchou) [inline Cslib/Computability/Automata/EpsilonNA/ToNA.lean]: The `intro` and `rcases` can be merged into `rintro`.

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 8]
```diff
@@ -0,0 +1,309 @@
...
+
+module
+
+public import Cslib.Computability.Automata.EpsilonNA.Basic
+
+/-! # Translation of εNA into εNA with a single accept state
+
+Defines the transformation `toSingleAccept` for `εNA.FinAcc` and proves correctness
+results in terms of language equivalence and correspondences between the two transition systems.
+-/
```
Comment (ctchou) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean:18]: Is this file necessary for this PR?  Its contents don't seem to be used anywhere else now.

Also, the stand construction in textbooks:
https://en.wikipedia.org/wiki/Thompson%27s_construction
uses EpsilonNA with a single start state and a single accept state.  Perhaps they should be the target of formalization.

**Review by ctchou — COMMENTED** [review]
Overall comment: I think the changes related to Turing machines and their tapes should be separated out to a different PR.  Currently they are indpendent of the changes related to LTS and EpsilonNA.

File: Cslib/Computability/Automata/EpsilonNA/Basic.lean (hunk 6 above)
Comment (chenson2018) [reply Cslib/Computability/Automata/EpsilonNA/Basic.lean]: And we typically don't write unnecessary type annotations for the fields, I'd have just put
 
```suggestion
  Accepts a xs := ∃ s ∈ a.start, ∃ s' ∈ a.accept, a.SMTr s (xs.map some) s'
```
Note that you can also write `some` instead and `Option.some` for brevity.

File: Cslib/Computability/Automata/EpsilonNA/ToNA.lean [hunk 9]
```diff
@@ -41,21 +22,39 @@ variable {State Symbol : Type*}
...
+    apply LTS.SMTr.comp (μs₁ := []) (s₂ := s) <;> grind
+  case mpr =>
+    cases xs with
+    | nil =>
+      exists s'
+      simp only [toNAFinAcc, LTS.saturate, LTS.τClosure]
+      grind [cases LTS.SMTr]
+    | cons x xs =>
+      exists s
+      grind
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToNA.lean]: I think in general the places where you have `simp; grind` are areas where the `grind` annotations aren't sufficient. I'd opt for something more direct:
```suggestion
  constructor <;> intro ⟨s, hs, s', hs', h⟩
  · have ⟨sStart, h_sStart, hs⟩ : ∃ i ∈ a.start, s ∈ a.saturate.image i HasTau.τ := by
      simpa [toNAFinAcc, LTS.τClosure, LTS.setImage] using hs
    use sStart, h_sStart, s', hs'
    have h_start := (LTS.sTr_τSTr_iff a.toLTS).mp hs
    exact LTS.SMTr.comp (LTS.sMTr_τSTr_iff.mp h_start) (by grind)
  · cases xs with
    | nil => cases h with | τ tau => exact ⟨s', LTS.tr_setImage hs tau, by grind⟩
    | cons x xs => exact ⟨s, by grind⟩
```

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 10]
```diff
@@ -0,0 +1,309 @@
...
+  accept := {none}
+  Tr
+    | some s, x, some s' => a.Tr s x s'
+    | some s, none, none => s ∈ a.accept
+    | _, _, _ => False
+
+@[scoped grind =]
+theorem toSingleAccept_accept_def {a : εNA.FinAcc State Symbol} :
+    a.toSingleAccept.accept = {none} := by
+  grind only [toSingleAccept]
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]: Let's not invoke `grind` for defeq theorems.
```suggestion
    a.toSingleAccept.accept = {none} := rfl
```

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 11]
```diff
@@ -0,0 +1,309 @@
...
+  grind [Accepts]
+
+open scoped LTS LTS.MTr LTS.STr LTS.SMTr
+
+@[scoped grind →]
+theorem toSingleAccept_tr_antiDerivative_isSome {a : εNA.FinAcc State Symbol}
+    (h : a.toSingleAccept.Tr os x os') : os.isSome := by
+  cases os with
+  | none => simp only [toSingleAccept] at h
+  | some _ => simp
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]: If it's `local grind`, you might as well do

```suggestion
  cases os with grind
```

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 12]
```diff
@@ -0,0 +1,309 @@
...
+
+@[scoped grind →]
+theorem toSingleAccept_tr_none_accept {a : εNA.FinAcc State Symbol}
+    (h : a.toSingleAccept.Tr os x none) : ∃ s, os = some s ∧ s ∈ a.accept := by
+  grind
+
+@[scoped grind ⇒]
+theorem toSingleAccept_not_tr_none {a : εNA.FinAcc State Symbol} :
+    ¬a.toSingleAccept.Tr none x os := by
+  grind only [toSingleAccept]
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]: Why the squeeze/passing a redundant theorem?

```suggestion
  grind
```

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 13]
```diff
@@ -0,0 +1,309 @@
...
+        apply LTS.MTr.stepL (s2 := some sb) <;> grind
+
+@[scoped grind →]
+theorem toSingleAccept_τSTr_antiDerivative_none {a : εNA.FinAcc State Symbol}
+    (h : a.toSingleAccept.τSTr none os) : os = none := by
+  generalize hnone : none = os' at h
+  induction h using Relation.ReflTransGen.head_induction_on
+  case refl => rfl
+  case head _ _ h₁ h₂ ih =>
+    grind only [toSingleAccept_tr_antiDerivative_isSome h₁, = Option.isSome_none]
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]:
```suggestion
  case head _ _ h₁ h₂ ih => grind [toSingleAccept_tr_antiDerivative_isSome h₁]
```

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 14]
```diff
@@ -0,0 +1,309 @@
...
+
+@[scoped grind →]
+theorem toSingleAccept_τSTr_antiDerivative_isSome {a : εNA.FinAcc State Symbol}
+    (h : a.toSingleAccept.τSTr os (some s')) : os.isSome := by
+  induction h using Relation.ReflTransGen.head_induction_on
+  case refl => grind only [= Option.isSome_some]
+  case head _ _ h₁ h₂ ih =>
+    exact toSingleAccept_tr_antiDerivative_isSome h₁
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]:
```suggestion
  case refl => exact Option.isSome_some
  case head _ _ h₁ h₂ ih => exact toSingleAccept_tr_antiDerivative_isSome h₁
```

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 15]
```diff
@@ -0,0 +1,309 @@
...
+    induction h generalizing os'
+    case refl =>
+      cases hos'
+      constructor
+    case tail sb s' hτstr htr ih =>
+      specialize ih (os' := some sb) rfl
+      apply Relation.ReflTransGen.trans (b := some sb) ih
+      apply Relation.ReflTransGen.single
+      rw [← hos']
+      apply toSingleAccept_tr_tr.mpr htr
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]: I think it is clearer to only use `generalize` in the direction that requires it

```suggestion
  apply Iff.intro
  · generalize hos' : some s' = os'
    intro h
    induction h generalizing s' with
    | refl =>
      cases hos'
      exact LTS.τSTr.refl
    | tail hτstr htr ih =>
      subst hos'
      obtain ⟨_, rfl⟩ := Option.isSome_iff_exists.mp <| toSingleAccept_tr_antiDerivative_isSome htr
      refine .trans (ih rfl) (.single htr)
  · intro h
    cases h with
    | refl => exact LTS.τSTr.refl
    | tail hτstr htr => exact .trans (.lift some (fun _ _ => id) hτstr) (.single htr)
```

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 16]
```diff
@@ -0,0 +1,309 @@
...
+  induction h
+  case refl => simp at hos'
+  case tail osb os' h₁ h₂ ih =>
+    rw [← hos'] at h₂
+    have hosb : ∃ sb, osb = some sb ∧ sb ∈ a.accept := by
+      apply toSingleAccept_tr_none_accept h₂
+    rcases hosb with ⟨sb, hosb, hsb⟩
+    exists sb; apply And.intro hsb
+    rw [hosb] at h₁
+    apply toSingleAccept_τSTr_τSTr.mp h₁
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]:
```suggestion
    subst hos'
    have ⟨sb, hosb, hsb⟩ := toSingleAccept_tr_none_accept h₂
    subst hosb
    exact ⟨sb, hsb, toSingleAccept_τSTr_τSTr.mp h₁⟩
```

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 17]
```diff
@@ -0,0 +1,309 @@
...
+    case refl => grind only [Option.some_inj, LTS.STr.refl]
+    case tr osb₁ x osb₂ os' h₁ h₂ h₃ =>
+      have ⟨sb₂, hosb₂⟩ : ∃ sb₂, osb₂ = some sb₂ := by grind
+      have ⟨sb₁, hosb₁⟩ : ∃ sb₁, osb₁ = some sb₁ := by grind
+      grind [LTS.STr.tr (s2 := sb₁) (s3 := sb₂)]
+  case mpr =>
+    induction h
+    case refl => grind only [LTS.STr.refl]
+    case tr sb₁ x sb₂ s' h₁ h₂ h₃ =>
+      grind [LTS.STr.tr (s2 := some sb₁) (s3 := some sb₂)]
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]: `grind only` fails here, could you rewrite this manually a bit?

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 18]
```diff
@@ -0,0 +1,309 @@
...
+
+@[scoped grind →]
+theorem toSingleAccept_sTr_none_none {a : εNA.FinAcc State Symbol}
+    (h : a.toSingleAccept.STr none x os) : x = none ∧ os = none := by
+  cases h
+  case refl => trivial
+  case tr osb₁ osb₂ h₁ h₂ h₃ =>
+    have hosb₁ : osb₁ = none := by grind
+    rw [hosb₁] at h₂
+    grind
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]: I would either call `grind` once by being more explicit:

```suggestion
  have : osb₁ = none := toSingleAccept_τSTr_antiDerivative_none h₁
  grind
```
or using interactive mode:

```suggestion
    grind =>
      have : osb₁ = none
      finish  
```

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 19]
```diff
@@ -0,0 +1,309 @@
...
+
+@[scoped grind →]
+theorem toSingleAccept_sMTr_antiDerivative_isSome {a : εNA.FinAcc State Symbol}
+    (h : a.toSingleAccept.SMTr os xs (some s')) : os.isSome := by
+  generalize hos' : some s' = os' at h
+  induction h <;> grind only [= Option.isSome_iff_exists,
+    → toSingleAccept_sTr_antiDerivative_isSome]
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]:
```suggestion
  induction h <;> grind [= Option.isSome_iff_exists]
```

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 20]
```diff
@@ -0,0 +1,309 @@
...
+    induction h generalizing s
+    case τ => grind [LTS.SMTr.τ]
+    case stepL os x osb xs os' h₁ h₂ ih =>
+      have ⟨sb, hosb⟩ : ∃ sb, osb = some sb := by grind [Option.isSome_iff_exists]
+      grind [LTS.SMTr.stepL (s2 := sb)]
+  case mpr =>
+    induction h generalizing os
+    case τ => grind [LTS.SMTr.τ]
+    case stepL s x sb xs s' h₁ h₂ ih =>
+      grind [LTS.SMTr.stepL (s2 := some sb)]
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]:
```suggestion
    case stepL s x sb xs s' h₁ h₂ ih => grind [LTS.SMTr.stepL (s2 := some sb)]
```

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 21]
```diff
@@ -0,0 +1,309 @@
...
+          case nil => rfl
+          case cons x' xs =>
+            cases hsmtr
+            grind
+        apply LTS.SMTr.stepL hstr' (by grind)
+      case some sb =>
+        rw [hosb] at hstr hsmtr
+        have ⟨s', hs', ih'⟩ := ih hsmtr
+        exists s'; apply And.intro hs'
+        apply LTS.SMTr.stepL (toSingleAccept_sTr_sTr.mp hstr) ih'
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]:
```suggestion
  case nil =>
    rcases h with ⟨h⟩
    have ⟨s', hs', h'⟩ := toSingleAccept_sTr_none_accept h
    exact ⟨s', hs', LTS.SMTr.τ h'⟩
  case cons x xs ih =>
    cases h
    case stepL osb hstr hsmtr =>
      cases hosb : osb
      case none =>
        subst hosb
        have ⟨s', hs', hstr'⟩ := toSingleAccept_sTr_none_accept hstr
        refine ⟨s', hs', LTS.SMTr.stepL hstr' ?_⟩
        have hxs : xs = [] := by cases xs with grind [cases LTS.SMTr]
        grind
      case some sb =>
        subst hosb
        have ⟨s', hs', ih'⟩ := ih hsmtr
        exact ⟨s', hs', LTS.SMTr.stepL (toSingleAccept_sTr_sTr.mp hstr) ih'⟩
```

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean [hunk 22]
```diff
@@ -0,0 +1,309 @@
...
+    exists none
+    apply And.intro (by grind)
+    have h' : a.toSingleAccept.SMTr (some s) (List.map some xs) (some s') := by grind
+    have hcomp := LTS.SMTr.comp (lts := a.toSingleAccept.toLTS) (s₁ := some s) (s₂ := some s')
+      (s₃ := none) (μs₁ := List.map some xs) (μs₂ := []) h'
+    simp only [List.append_nil] at hcomp
+    apply hcomp
+    constructor
+    apply LTS.STr.single
+    grind [toSingleAccept]
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean]:
```suggestion
    rcases h with ⟨s, hs, s', hs', hsmtr⟩
    refine ⟨s, by grind, none, by grind, ?_⟩
    rw [show xs.map some = xs.map some ++ [] by simp]
    exact LTS.SMTr.comp (toSingleAccept_sMTr_sMTr.mpr hsmtr) <| LTS.SMTr.τ (LTS.STr.single hs')
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]
I've been working on this for a few hours, so I'm going to stop before carefully looking at the last couple of files.

There's a lot of small style issues, but the biggest thing I'd like to clear up is what seems to be some confusion about `grind only`. We still prefer to to use `grind` without squeezing, it is just when `grind?` gives a failing result that we need to use `grind only`.

File: Cslib/Foundations/Semantics/LTS/HasTau.lean (hunk 4 above)
Comment (fmontesi) [reply Cslib/Foundations/Semantics/LTS/HasTau.lean:200]: This works only for nonempty lists of transition labels. Do you mean to define SMTr by having two cases, one for the empty list (using tau-closure or similar) and the other that just invokes saturate.MTr for nonempty lists? That might be worth a shot.

File: Cslib/Foundations/Semantics/LTS/Map.lean (hunk 5 above)
Comment (fmontesi) [reply Cslib/Foundations/Semantics/LTS/Map.lean]: I did plan for it, but I'm still unclear about the signatures, so for now I'll rename to MapLabel.

File: Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean (hunk 8 above)
Comment (fmontesi) [reply Cslib/Computability/Automata/EpsilonNA/ToSingleAccept.lean:18]: This file has been very useful to check the theorems/defs I needed to reason about SMTr and saturated transitions in general.

I agree that including single-start would be a good idea. I'd like to leave it as a note though for now, since this PR is already too big for my tastes.

File: Cslib/Foundations/Semantics/LTS/HasTau.lean (hunk 2 above)
Comment (fmontesi) [reply Cslib/Foundations/Semantics/LTS/HasTau.lean]: Not really, it was to help grind out in, e.g., `empty_saturate_setImage_τ`, since otherwise it requires an explicit call to `Set.mem_of_mem_of_subset`. But I agree that it's a bit redundant, so I've removed.

**Comment by fmontesi** [comment]
> I've been working on this for a few hours, so I'm going to stop before carefully looking at the last couple of files.
> 
> There's a lot of small style issues, but the biggest thing I'd like to clear up is what seems to be some confusion about `grind only`. We still prefer to to use `grind` without squeezing, it is just when `grind?` gives a failing result that we need to use `grind only`.

Right. Sometimes I squeezed them because I felt like some proofs were becoming much faster, but I did it kinda erratically. This PR has admittedly been a bit messy to work with (because it started as a refactoring that then required unexpected fixes). Thanks for all the help, @chenson2018 and @ctchou.

File: Cslib/Foundations/Semantics/LTS/HasTau.lean (hunk 4 above)
Comment (ctchou) [reply Cslib/Foundations/Semantics/LTS/HasTau.lean:200]: Just want to record this thought: perhaps `LTS.saturates` should have been defined as a quotient operation where any subset of states reachable via the tau-transition alone is merged into a single state.  Then the `μs ≠ [])` precondition in this theorem would not be needed.

**Review by ctchou — APPROVED** [review]
My concerns have been addressed.

File: Cslib/Foundations/Semantics/LTS/HasTau.lean (hunk 4 above)
Comment (fmontesi) [reply Cslib/Foundations/Semantics/LTS/HasTau.lean:200]: That sounds promising, do you have anything specific in mind? We should probably discuss this on Zulip.

File: Cslib/Foundations/Semantics/LTS/HasTau.lean [hunk 23]
```diff
@@ -122,20 +126,110 @@ theorem saturate_tr_saturate_sTr [hHasTau : HasTau Label] (lts : LTS State Label
...
+lemma mem_saturate_image_τ [HasTau Label] (lts : LTS State Label) :
   s ∈ lts.saturate.image s HasTau.τ := STr.refl
 
+/-- Monotonicity of `setImage` on `HasTau.τ`. -/
+@[scoped grind .]
+lemma subset_saturate_setImage_τ [HasTau Label] (lts : LTS State Label) :
+    S ⊆ lts.saturate.setImage S HasTau.τ := by
+  simp only [Subset, LE.le, Set.Subset, setImage, Set.mem_iUnion, exists_prop]
+  intro s h
+  grind
```
Comment (chenson2018) [inline Cslib/Foundations/Semantics/LTS/HasTau.lean]: I prefer not mixing `simp`/`grind` where possible:

```suggestion
  grind [setImage, Set.mem_iUnion]
```

File: Cslib/Foundations/Semantics/LTS/HasTau.lean [hunk 24]
```diff
@@ -122,20 +126,110 @@ theorem saturate_tr_saturate_sTr [hHasTau : HasTau Label] (lts : LTS State Label
...
+    (h₁ : lts.SMTr s₁ μs₁ s₂) (h₂ : lts.SMTr s₂ μs₂ s₃) : lts.SMTr s₁ (μs₁ ++ μs₂) s₃ := by
+  induction h₁
+  case τ s₁ s₂ htr =>
+    cases h₂
+    case τ htr' => grind [SMTr]
+    case stepL _ _ _ μ s₂' μs hstr hmstr =>
+      have hstr' : lts.STr s₁ μ s₂' := by
+        apply STr.comp htr hstr STr.refl
+      simp only [List.nil_append]
+      apply stepL hstr' hmstr
```
Comment (chenson2018) [inline Cslib/Foundations/Semantics/LTS/HasTau.lean]:
```suggestion
    case stepL _ _ _ μ s₂' μs hstr hmstr => exact stepL (htr.comp hstr STr.refl) hmstr
```

**Review by chenson2018 — APPROVED** [review]
Two minor comments on the other files
